US07273877B2
Ethyl 4-(2-fluoro-4-iodoanilino)-6-oxo-1,6-dihydro-3-pyridinecarboxylate was reacted with NaH and iodoethane in DMF under the same conditions as for example 22, step A to give a crude solid which was purified by column chromatography on silica gel (50% EtOAc/hexanes as eluant). Ethyl 1-ethyl-4-(2-fluoro-4-iodoanilino)-6-oxo-1,6-dihydro-3-pyridinecarboxylate was isolated as white needles (61%), m.p. (EtOAc/hexanes) 138-142° C. 1H NMR [(CD3)2SO, 400 MHz] δ 9.29 (s, 1H), 8.52 (s, 1H), 7.77 (dd, J=10.1, 1.9 Hz, 1H), 7.60 (ddd, J=8.4, 2.0, 0.8 Hz, 1H), 7.31 (t, J=8.5 Hz, 1H), 5.45 (s, 1H), 4.30 (q, J=7.1 Hz, 2H), 3.93 (q, J=7.1 Hz, 2H), 1.33 (t, J=7.1 Hz, 3H), 1.20 (t, J=7.1 Hz, 3H). Anal. Calcd for C16H16FIN2O3: C, 44.7; H, 3.8; N, 6.5. Found: C, 45.0; H, 3.6; N, 6.4.

reactant | Ethyl 4-(2-fluoro-4-iodoanilino)-6-oxo-1,6-dihydro-3-pyridinecarboxylate | FC1=C(NC=2C(=CNC(C2)=O)C(=O)OCC)C=CC(=C1)I | C14H12FIN2O3
reactant | NaH | [H-].[Na+]
reactant | iodoethane | ICC | C2H5I
solvent | DMF | CN(C)C=O | C3H7NO
product | Ethyl 1-ethyl-4-(2-fluoro-4-iodoanilino)-6-oxo-1,6-dihydro-3-pyridinecarboxylate | C(C)N1C=C(C(=CC1=O)NC1=C(C=C(C=C1)I)F)C(=O)OCC | C16H16FIN2O3
